US08357721B2
a) 1-Bromo-4-[2-(cyclopentylthio)ethyl]benzene
Obtained by working as in Example 1a, starting with 2-(4-bromophenyl)ethyl methanesulfonate (Carbohydr. Res. (2003) 338, 29) and cyclopentanethiol.

reactant | 2-(4-bromophenyl)ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)Br | C9H11BrO3S
reactant | cyclopentanethiol | C1(CCCC1)S | C5H10S
product | 1-Bromo-4-[2-(cyclopentylthio)ethyl]benzene | BrC1=CC=C(C=C1)CCSC1CCCC1 | C13H17BrS
